US07601844B2
To a solution of ethyl 2-aminooxazole-4-carboxylate (1.56 g, 9.99 mmol) in THF (4 mL) and MeOH (4 mL), was added sodium hydroxide (8.0 g, 20 mmol, 10%) aq solution. The reaction was stirred at rt for 18 h then quenched with 4N HCl to pH=3. The aqueous solution was concentrated to give a yellow solid as a mixed acid and salts. The mixture was washed with EtOAc and MeOH, and the filtrate was collected and concentrated to give sodium 2-aminooxazole-4-carboxylate as a yellow solid.

reactant | ethyl 2-aminooxazole-4-carboxylate | 9.99 mmol, 1.56 g | NC=1OC=C(N1)C(=O)OCC | C6H8N2O3
reactant | sodium hydroxide | 20 mmol, 8.0 g | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 4 mL | CO | CH4O
product | sodium 2-aminooxazole-4-carboxylate | NC=1OC=C(N1)C(=O)[O-].[Na+] | InChI=1S/C4H4N2O3.Na/c5-4-6-2(1-9-4)3(7)8;/h1H,(H2,5,6)(H,7,8);/q;+1/p-1
